US06617124B1
Preparation of 7-Methoxy-4-(dimethylaminomethyl)coumarin
A mixture of dimethylamine hydrochloride (0.18 g), 4-bromomethyl-7-methoxycoumarin (0.30 g), potassium carbonate (0.5 g) and dichloromethane (10 ml) was stirred at room temperature for 2 days. The solid was filtered off and the filtrate concentrated. The residue was purified by chromatography on silica gel (eluent 5% methanol in dichloromethane), then crystallised from methanol to give the title compound as a white solid (0.145 g).

reactant | dimethylamine hydrochloride | 0.18 g | Cl.CNC
reactant | 4-bromomethyl-7-methoxycoumarin | 0.30 g | BrCC1=CC(OC2=CC(=CC=C12)OC)=O | C11H9BrO3
reactant | potassium carbonate | 0.5 g | C([O-])([O-])=O.[K+].[K+]
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 7-Methoxy-4-(dimethylaminomethyl)coumarin | 0.145 g | COC1=CC=C2C(=CC(OC2=C1)=O)CN(C)C | C13H15NO3
